US07595327B2
Arecoline hydrobromide (25 g, 106 mmol) was neutralized with sodium carbonate (12.8 g, 120 mmol, 1.1 eq) in water (200 mL) for 30 min. The neutralized product was dissolved in toluene (50 mL) and added dropwise to a solution of triphosgene (16.3 g, 54.9 mmol, 0.52 eq) in toluene (100 mL) at 0° C. The resulting mixture was heated at 55-60° C. overnight. The reaction mixture was then concentrated in vacuo and the residue was dissolved in water (300 mL) and heated at 80° C. for 3 h. The water was evaporated and chased with toluene 3 times. The crude methyl 1,2,5,6-tetrahydropyridine-3-carboxylate hydrochloride, obtained as a thick brown oil, was used as is in the next reaction.

reactant | Arecoline hydrobromide | 106 mmol, 25 g | CN1CCC=C(C1)C(=O)OC.Br
reactant | sodium carbonate | 120 mmol, 12.8 g, 1.1 eq | C([O-])([O-])=O.[Na+].[Na+]
reactant | triphosgene | 54.9 mmol, 16.3 g, 0.52 eq | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
solvent | water | 200 mL | O | H2O
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | methyl 1,2,5,6-tetrahydropyridine-3-carboxylate hydrochloride | Cl.N1CC(=CCC1)C(=O)OC | InChI=1S/C7H11NO2.ClH/c1-10-7(9)6-3-2-4-8-5-6;/h3,8H,2,4-5H2,1H3;1H
